US07514571B2
Using 4-amino-1-hydroxymethylbicyclo[2,2,2]octane (50.5 mg) and (2S)-1-(2-bromoacetyl)pyrrolidine-2-carbonitrile (61.7 mg), the same procedure was followed as in Example 5 to obtain (2S)-1-[[N-(4-hydroxymethylbicyclo[2,2,2]oct-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile (57.0 mg).

reactant | 4-amino-1-hydroxymethylbicyclo[2,2,2]octane | 50.5 mg | NC12CCC(CC1)(CC2)CO | C9H17NO
reactant | (2S)-1-(2-bromoacetyl)pyrrolidine-2-carbonitrile | 61.7 mg | BrCC(=O)N1[C@@H](CCC1)C#N | C7H9BrN2O
product | (2S)-1-[[N-(4-hydroxymethylbicyclo[2,2,2]oct-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile | 57.0 mg | OCC12CCC(CC1)(CC2)NCC(=O)N2[C@@H](CCC2)C#N | C16H25N3O2
